US06448281B1
On a solid phase synthesizer (Advanced Chemtech ACT 90), Wang resin (Nova Biochem, loading: 1.2 mmol/g, 20 mmol, 16.7 g) was washed twice with DCM (100 mL), twice with i-PrOH (100 mL) and was dried overnight under high vacuum over P2O5. The following day, the resin was washed with anhydrous DCM (2×100 mL) and was suspended in anhydrous DCM (100 mL). To the suspension was added DIEA (30 mmol, 5.2 mL) followed by a solution of 4-fluoro-3-nitrobenzoyl chloride (22 mmol, 4.48 g) dissolved in 10 ml of anhydrous DCM. The slurry was shaken for 3 h, the solution was drained and the resin was washed twice with 100 mL-portions of anhydrous DCM. The resin was then suspended in anhydrous DCM (100 mL) and was treated with DIEA (30 mmol, 5.2 mL) followed by acetic anhydride (24 mmol, 2.3 mL). After shaking for 2 h, the solution was drained and the resin was washed successively with DCM (2×100 mL), i-PrOH (2×100 mL), DCM (2×100 mL) and finally with i-PrOH (3×100 mL). The resin was dried overnight under high vacuum. To calculate the level of incorporation, the resin (45.9 mg) was treated with a 1:1 mixture of TFA/1,2-dichloroethane (1.5 mL) for 1 h. The resin was filtered and was washed twice with 1,2-dichloroethane (1.5 mL). The filtrates were combined and concentrated under vacuum. The residue was lyophilized from MeCN/H2O to give 4-fluoro-3-nitro benzoic acid as a yellow solid (6.3 mg, 0.033 mmol). Based on recovered compound, the loading was calculated to be 0.74 mmol/g.

reactant | DIEA | 30 mmol, 5.2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-fluoro-3-nitrobenzoyl chloride | 22 mmol, 4.48 g | FC1=C(C=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C7H3ClFNO3
reactant | DIEA | 30 mmol, 5.2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | acetic anhydride | 24 mmol, 2.3 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-fluoro-3-nitro benzoic acid | 0.033 mmol, 6.3 mg | FC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4FNO4
